US09315502B2
Intermediate D: 1-Phenyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole
The title compound, brown solid (2.0 g, 76%), MS (ISP) m/z=271.6 [(M+H)+], mp 132° C., was prepared in accordance with the general method of intermediate A from commercially available 1-phenyl-1H-pyrazol (1.40 g, 9.71 mmol) and commercially available 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.

reactant | 1-phenyl-1H-pyrazol | 9.71 mmol, 1.40 g | C1(=CC=CC=C1)N1N=CC=C1 | C9H8N2
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
product | 1-Phenyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | C1(=CC=CC=C1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C15H19BN2O2
